* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\6_Amplificadores_potencia_RF\2_Ejercicios\spice\push_pull.asc
V1 N005 0 SINE(0 30 1e6 0 0 -90)
Co 0 o {C}
V2 N009 0 110V
R1 0 o {RL}
G1 N001 0 N002 0 table(-10,0,0,0,10,10,20,10)
C3 VDD 0 1µ
R2 N009 VDD 2
L1 N004 0 {L3}
L3 N002 N006 {L3}
L2 N006 N008 {L3}
G2 N007 0 N008 0 table(-10,0,0,0,10,10,20,10)
L4 N001 VDD {L2}
L5 VDD N007 {L2}
R3 N003 N005 50
L6 0 o {L1}
V3 0 N006 5
R4 N008 0 100
R5 N002 0 100
T1 N003 0 N004 0 Td=50n Z0=50
.tran 0 200e-6 180e-6 1e-9
.options numdgt = 7
.options plotwinsize = 0
.four 1e6 1 V(o)
K1 L1 L2 L3 1
K2 L4 L5 L6 1
.param RL = 50.00
.param L1 = 1.8228e-07
.param C = 1.3896e-07
.param L2 = 4.1753e-08
.param L3 = 7.9577e-04
.backanno
.end
